US07189736B2
7. (7S,8R,9R)-8-Benzoyloxy-7-(2-methoxyethoxy)-2,3-dimethyl-9-phenyl-7,8,9,10tetrahydroimidazo[1,2-h][1,7]naphthyridine
Analogously to example 6, 1.1 g of the title compound of melting point 78–80° C. (diethyl ether) are obtained by reaction of (7S,8R,9R)-8-hydroxy-7-(2-methoxyethoxy)-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine with benzoyl chloride.

reactant | (7S,8R,9R)-8-hydroxy-7-(2-methoxyethoxy)-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | O[C@@H]1[C@H](NC=2C=3N(C=CC2[C@@H]1OCCOC)C(=C(N3)C)C)C3=CC=CC=C3 | C21H25N3O3
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | diethyl ether | C(C)OCC | C4H10O
product | (7S,8R,9R)-8-Benzoyloxy-7-(2-methoxyethoxy)-2,3-dimethyl-9-phenyl-7,8,9,10tetrahydroimidazo[1,2-h][1,7]naphthyridine | 1.1 g | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](NC=2C=3N(C=CC2[C@@H]1OCCOC)C(=C(N3)C)C)C3=CC=CC=C3 | C28H29N3O4
